Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O=[CH:1][CH2:2][c:3]1[c:4]([CH2:5][CH3:6])[cH:7][c:8](-[c:9]2[cH:10][cH:11][cH:12][c:13]([NH:14][C:15](=[O:16])[C:17]([CH3:18])([CH3:19])[CH3:20])[n:21]2)[c:22]([O:23][CH3:24])[cH:25]1.[CH3:26][NH:27][CH3:28]>>[CH2:1]([CH2:2][c:3]1[c:4]([CH2:5][CH3:6])[cH:7][c:8](-[c:9]2[cH:10][cH:11][cH:12][c:13]([NH:14][C:15](=[O:16])[C:17]([CH3:18])([CH3:19])[CH3:20])[n:21]2)[c:22]([O:23][CH3:24])[cH:25]1)[N:27]([CH3:26])[CH3:28],[O:101]=[CH:1][CH2:2][c:3]1[c:4]([CH2:5][CH3:6])[cH:7][c:8](-[c:9]2[cH:10][cH:11][cH:12][c:13]([NH:14][C:15](=[O:16])[C:17]([CH3:18])([CH3:19])[CH3:20])[n:21]2)[c:22]([O:23][CH3:24])[cH:25]1.[CH3:26][NH:27][CH3:28].[H+:301].[BH3-:302]C#N.[Na+]>>[CH2:1]([CH2:2][c:3]1[c:4]([CH2:5][CH3:6])[cH:7][c:8](-[c:9]2[cH:10][cH:11][cH:12][c:13]([NH:14][C:15](=[O:16])[C:17]([CH3:18])([CH3:19])[CH3:20])[n:21]2)[c:22]([O:23][CH3:24])[cH:25]1)[N:27]([CH3:26])[CH3:28],reductive_amination,"[(27, 1), ([1, 101], 301), (101, 27.1), ([27.1, 27], 27), (27, [27, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 27], 27)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH:1][C:2]([CH2:3][C:4]([CH3:5])([CH3:6])[c:7]1[cH:8][cH:9][c:10]([Cl:11])[c:12]2[c:13]1[O:14][CH2:15][O:16]2)([OH:17])[C:18]([F:19])([F:20])[F:21].[CH3:22][O:23][C:24](=[O:25])[c:26]1[cH:27][cH:28][c:29]2[c:30]([NH2:31])[cH:32][cH:33][cH:34][c:35]2[n:36]1>>[CH:1]([C:2]([CH2:3][C:4]([CH3:5])([CH3:6])[c:7]1[cH:8][cH:9][c:10]([Cl:11])[c:12]2[c:13]1[O:14][CH2:15][O:16]2)([OH:17])[C:18]([F:19])([F:20])[F:21])=[N:31][c:30]1[c:29]2[cH:28][cH:27][c:26]([C:24]([O:23][CH3:22])=[O:25])[n:36][c:35]2[cH:34][cH:33][cH:32]1,[O:101]=[CH:1][C:2]([CH2:3][C:4]([CH3:5])([CH3:6])[c:7]1[cH:8][cH:9][c:10]([Cl:11])[c:12]2[c:13]1[O:14][CH2:15][O:16]2)([OH:17])[C:18]([F:19])([F:20])[F:21].[CH3:22][O:23][C:24](=[O:25])[c:26]1[cH:27][cH:28][c:29]2[c:30]([NH2:31])[cH:32][cH:33][cH:34][c:35]2[n:36]1.[H+:301]>>[CH:1]([C:2]([CH2:3][C:4]([CH3:5])([CH3:6])[c:7]1[cH:8][cH:9][c:10]([Cl:11])[c:12]2[c:13]1[O:14][CH2:15][O:16]2)([OH:17])[C:18]([F:19])([F:20])[F:21])=[N:31][c:30]1[c:29]2[cH:28][cH:27][c:26]([C:24]([O:23][CH3:22])=[O:25])[n:36][c:35]2[cH:34][cH:33][cH:32]1,imine_formation,"[(31, 1), ([1, 101], 301), (101, 31.1), ([31.1, 31], 31), (31, [31, 1]), ([1, 101], 101), ([31.1, 31], 31)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1](=[O:2])[c:3]1[cH:4][cH:5][c:6]([I:7])[cH:8][cH:9]1.[CH3:10][n:11]1[n:12][cH:13][c:14]([Br:15])[c:16]1[NH2:17]>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][c:6]([I:7])[cH:8][cH:9]1)[NH:17][c:16]1[n:11]([CH3:10])[n:12][cH:13][c:14]1[Br:15],[Cl:101][C:1](=[O:2])[c:3]1[cH:4][cH:5][c:6]([I:7])[cH:8][cH:9]1.[CH3:10][n:11]1[n:12][cH:13][c:14]([Br:15])[c:16]1[NH2:17]>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][c:6]([I:7])[cH:8][cH:9]1)[NH:17][c:16]1[n:11]([CH3:10])[n:12][cH:13][c:14]1[Br:15],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(17, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][c:2]1[cH:3][cH:4][c:5]([S:6]([CH3:7])(=[O:8])=[O:9])[cH:10][cH:11]1.[CH3:12][O:13][c:14]1[c:15]([O:16][CH:17]([F:18])[F:19])[cH:20][cH:21][c:22](-[c:23]2[cH:24][cH:25][cH:26][c:27]3[c:28]2[CH2:29][CH2:30][C:31]3=[O:32])[c:33]1[OH:34]>>[CH2:1]([c:2]1[cH:3][cH:4][c:5]([S:6]([CH3:7])(=[O:8])=[O:9])[cH:10][cH:11]1)[O:34][c:33]1[c:14]([O:13][CH3:12])[c:15]([O:16][CH:17]([F:18])[F:19])[cH:20][cH:21][c:22]1-[c:23]1[cH:24][cH:25][cH:26][c:27]2[c:28]1[CH2:29][CH2:30][C:31]2=[O:32],[CH3:12][O:13][c:14]1[c:15]([O:16][CH:17]([F:18])[F:19])[cH:20][cH:21][c:22](-[c:23]2[cH:24][cH:25][cH:26][c:27]3[c:28]2[CH2:29][CH2:30][C:31]3=[O:32])[c:33]1[OH:34].[Br:101][CH2:1][c:2]1[cH:3][cH:4][c:5]([S:6]([CH3:7])(=[O:8])=[O:9])[cH:10][cH:11]1.[H-:301].[Na+]>>[CH2:1]([c:2]1[cH:3][cH:4][c:5]([S:6]([CH3:7])(=[O:8])=[O:9])[cH:10][cH:11]1)[O:34][c:33]1[c:14]([O:13][CH3:12])[c:15]([O:16][CH:17]([F:18])[F:19])[cH:20][cH:21][c:22]1-[c:23]1[cH:24][cH:25][cH:26][c:27]2[c:28]1[CH2:29][CH2:30][C:31]2=[O:32],SN2_alcohol(thiol),"[(301, 34.1), ([34.1, 34], 34), (34, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
